US04966891
5'-Deoxy-5-fluorocytidine (735 mg) and butyric anhydride (1.04 g) was dissolved in 75% aqueous dioxane (20 ml). The mixture was stirred for 18 hours at room temperature. After removal of the solvent, the residue was purified by silica gel column chromatography to give colorless crystals of N4 -butyryl-5'-deoxy-5-fluorocytidine (420 mg), mp 156°~157° C.; MS 316 (MH+).

reactant | 5'-Deoxy-5-fluorocytidine | 735 mg | FC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)N | C9H12FN3O4
reactant | butyric anhydride | 1.04 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N4 -butyryl-5'-deoxy-5-fluorocytidine | 420 mg | C(CCC)(=O)NC1=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C=C1F)=O | C13H18FN3O5
